US04242351
To a solution of 3-[2-(3-cyano-2-methyl-isothioureido)ethylthiomethyl]-5-guanidino-1,2,4-oxadiazole (0.7 g.) in ethanol (20 ml.) was added a 33% w/v solution of methylamine in ethanol (30 ml.) The solution was kept for 18 hours at 20°, evaporated in vacuo and the residue finally dried at 30°/0.05 mm. to give 3-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]-5-guanidino-1,2,4-oxadiazole as a white solid, m.p. 185°-188°.

reactant | 3-[2-(3-cyano-2-methyl-isothioureido)ethylthiomethyl]-5-guanidino-1,2,4-oxadiazole | 0.7 g | C(#N)N=C(NCCSCC1=NOC(=N1)NC(=N)N)SC | C9H14N8OS2
reactant | methylamine | CN | CH5N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]-5-guanidino-1,2,4-oxadiazole | C(#N)N=C(NCCSCC1=NOC(=N1)NC(=N)N)NC | C9H15N9OS
